US08012976B2
Methyl 2-(bromomethyl)-5-chloro-3-nitrobenzoate
A mixture of methyl 5-chloro-2-methyl-3-nitrobenzoate (6 g, 26.2 mmol), NBS (5.1 g, 28.8 mmol), and BPO (0.63 g, 2.6 mmol) in CCl4 (50 mL) was heated to reflux overnight. Water (200 mL) was added and CCl4 was removed under reduced pressure. The residue was extracted with DCM (200 mL×3). The combined organic layers were washed with brine, dried over Na2SO4, and concentrated to give crude title compound (7 g, yield 87%) as a brown oil which was used in the next step without purification.

reactant | methyl 5-chloro-2-methyl-3-nitrobenzoate | 26.2 mmol, 6 g | ClC=1C=C(C(=C(C(=O)OC)C1)C)[N+](=O)[O-] | C9H8ClNO4
reactant | NBS | 28.8 mmol, 5.1 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | Water | 200 mL | O | H2O
solvent | CCl4 | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl 2-(bromomethyl)-5-chloro-3-nitrobenzoate | 7 g, yield 87% | BrCC1=C(C(=O)OC)C=C(C=C1[N+](=O)[O-])Cl | C9H7BrClNO4
